Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
contractions
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Pt presents with c/o painful uterine contractions. No LOF, no
bleeding. Good fetal movement. Pt examined in office last ___
4cm dilated, membranes stripped.

Issues in pregnancy:
Flu in pregnancy, tx with Tamiflu

Patient Active Problem List:
  FAMILY HISTORY CONSANGUINITY [V19.7]
G3, P2, Term2, Preterm0, Abt0, Sab0, Tab0, Ect0, Live1, ___
___, by Last Menstrual Period 
BLOODGRP       AB   ___
RH   RH(D) POSITIVE   ___
ABSCREEN   SEE BELOW   ___
No results found for this basename: aborhabscrn
RUBELLASEROL    142.0   ___
No results found for this basename: rubigg
No results found for this basename: rubellainter
HBSAG   Negative   ___
RPR   Non-Reactive   ___
SYPHSCRINTER   Non-Reactive   ___

GBS Negative 
TWG: 22 lbs

 
Past Medical History:
has a past medical history of Hepatitis A and Lower back
pain. She also has no past medical history of ___ in
utero, Tuberculosis exposure, Sexually transmitted disease
exposure, Adult abuse/neglect, other, Family history of
congenital anomalies, Family history of genetic disease carrier,
or Transfusion.  

PSH: Past Surgical History:
 NO SIGNIF SURGICAL HX    
   
Past OB Hx:
Obstetric History
 G3  P2    T2  P0  TAB0  SAB0  E0  M0  L1 

Date:            ___
Gestational Age: ___ 3d
Delivery Type:   VAC
Labor Length:    14 hr
Infant Gender:   Female
Birth Weight:    8 lbs 10 oz
Infant Name:     ___
Anesthesia:      Epidural
Comments:        Vacuum X 3, Sulcus Extension

Date:            ___
Gestational Age: ___ 2d
Delivery Type:   Spontaneous Vaginal Delivery
Infant Gender:   Female
Birth Weight:    7 lbs 9.7 oz
Anesthesia:      Epidural
Comments:        recurrent deep variables during second stage, 
                meconium.  vigorous at delivery. 

                                
 
Social History:
 Married, nonsmoker

 
Physical Exam:
Estimated body mass index is 37.63 kg/(m^2) as calculated from
the following:
 Height as of ___: 5' 3" (1.6 m).
 Weight as of ___: 212 lb 6.4 oz (96.344 kg).
VS: BP 125/72  HR 86    
Abdomen: Soft, NT
Uterus: soft, NT, contractions not palpable
EFW: 7.5 lbs by ___
Extremities: neg edema, neg clonus, neg homans

FHT: 130 mod var +accels no decels
Toco: irregular ctx

SVE: ___, unchanged from exam at 9am 
 
Pertinent Results:
none
 
Brief Hospital Course:
patient observed on labor and delivery and follow up cervical 
exams unchanged. contractions, mild and irregular. patient 
tired.
she received Morphine sulfate for sleep.
reevaluated on ___ in AM. cervix unchanged 3-4cm, 50%, 
posterior, high, midconsistency.
discharged home with instructions. follow up in 1 week with 
primary Ob team
 
Medications on Admission:
prenatal vitamins
 
Discharge Medications:
prenatal vitamins
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
false labor

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
per instruction sheet
 
Followup Instructions:
___